US07259266B2
Sodium 6-chloro-8-[(2-fluorophenyl)ethynyl]-2-(trifluoromethyl)-2H-chromene-3-Carboxylate
A solution of 84.3 mg (0.213 mmole) of 6-chloro-8-[(2-fluorophenyl)ethynyl]-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid in 2.0 mL of ethanol was treated with 2.108 mL of 0.1008N NaOH. The resultant mixture was lyophilized to provide a quantitative yield of a yellow solid: 1H NMR (CD3OD/400 MHz) 5.97 (q, 1H, J=7.2 Hz), 7.14-7.20 (m, 2H), 7.28-7.30 (m, 1H), 7.36-7.42 (m, 3H), 7.51-7.54 (m, 1H).

reactant | 6-chloro-8-[(2-fluorophenyl)ethynyl]-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.213 mmole, 84.3 mg | ClC=1C=C2C=C(C(OC2=C(C1)C#CC1=C(C=CC=C1)F)C(F)(F)F)C(=O)O | C19H9ClF4O3
reactant | NaOH | 0.1008N, 2.108 mL | [OH-].[Na+]
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | Sodium 6-chloro-8-[(2-fluorophenyl)ethynyl]-2-(trifluoromethyl)-2H-chromene-3-Carboxylate | quantitative yield | ClC=1C=C2C=C(C(OC2=C(C1)C#CC1=C(C=CC=C1)F)C(F)(F)F)C(=O)[O-].[Na+] | InChI=1S/C19H9ClF4O3.Na/c20-13-7-11(6-5-10-3-1-2-4-15(10)21)16-12(8-13)9-14(18(25)26)17(27-16)19(22,23)24;/h1-4,7-9,17H,(H,25,26);/q;+1/p-1
